US07138410B2
2-(1-Azabicyclo[2.2.2]oct-3-yl)-N-(3-bromophenyl)acetamide Hydrochloride
500 mg (2.34 mmol) of 1-azabicyclo[2.2.2]oct-3-ylacetic acid hydrochloride are suspended in 10 ml of dichloromethane and cooled to 0° C. 1.79 g (9.72 mmol) of pentafluorophenol and 699.0 mg (3.65 mmol) of EDC are added, and the mixture is stirred at room temperature overnight. The residue after concentration in vacuo is mixed with 8 ml of DMF and 627.3 mg (3.56 mmol) of 3-bromoaniline and left to stir at room temperature for a further night. The reaction mixture is stirred with 10 ml of 10% strength aqueous sodium bicarbonate solution and 10 ml of ethyl acetate. After the resulting precipitate has been filtered off with suction and washed with ethyl acetate, the two-phase filtrate is separated and the aqueous phase is extracted three times with ethyl acetate. The combined organic phases are dried over sodium sulfate and concentrated. The crude mixture is purified by preparative HPLC. The product fractions are concentrated, taken up in a 5:1 mixture of methanol and 1M hydrochloric acid and again concentrated. Drying under high vacuum results in 600 mg (57.3% of theory) of the title compound, which is employed without further purification in the following stages.

reactant | 1-azabicyclo[2.2.2]oct-3-ylacetic acid hydrochloride | 2.34 mmol, 500 mg | Cl.N12CC(C(CC1)CC2)CC(=O)O
reactant | pentafluorophenol | 9.72 mmol, 1.79 g | FC1=C(C(=C(C(=C1O)F)F)F)F | C6HF5O
reactant | EDC | 3.65 mmol, 699.0 mg
reactant | 3-bromoaniline | 3.56 mmol, 627.3 mg | BrC=1C=C(N)C=CC1 | C6H6BrN
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
product | 2-(1-Azabicyclo[2.2.2]oct-3-yl)-N-(3-bromophenyl)acetamide Hydrochloride | Cl.N12CC(C(CC1)CC2)CC(=O)NC2=CC(=CC=C2)Br | InChI=1S/C15H19BrN2O.ClH/c16-13-2-1-3-14(9-13)17-15(19)8-12-10-18-6-4-11(12)5-7-18;/h1-3,9,11-12H,4-8,10H2,(H,17,19);1H
